US08084449B2
1,1-Dimethylethyl {[3′-({[(1,1-dimethylethyl)-(methyl)silyl]oxy}methyl)-6-methyl-3-biphenylyl]methyl}carbamate
Pd(OAc)2 (56.3 mg, 0.25 mmol), PPh3 (263.0 mg, 1.0 mmol), K2CO3 (1.7 g, 12.5 mmol) and 1,1-dimethylethyl [(3-bromo-4-cyanophenyl)methyl]carbamate (2.6 g, 8.4 mmol) were suspended in 1,4-dioxane (30 mL). After the mixture was heated to 80° C. for 15 min, [3-(hydroxymethyl)phenyl]boronic acid-(1,1-dimethylethyl)(trimethyl)silane (2.7 g, 10.0 mmol) was added. Then the reaction mixture was stirred over night at 100° C. After cooling to room temperature, the solvent was removed under reduced pressure. The residue was dissolved in CH2Cl2 (50 mL), washed with water (20 mL), brine (20 mL), and dried over Na2SO4. After the solvent was removed, the crude product was purified on Al2O3 column chomatography, eluting with CH2Cl2 to yield the captioned product (2.6 g, yield: 60%). 1H NMR (400 MHz, CDCl3) δ 0.12 (s, 6H), 0.95 (s 9H), 1.46 (s, 9H), 4.41-4.42 (m, 2H), 4.81 (s, 2H), 7.37-7.47 (m, 6H), 7.71 (d, J=8.0 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ −5.3, 18.4, 25.9, 28.3, 44.2, 64.7, 80.0, 109.9, 118.6, 126.1, 126.2, 126.4, 127.3, 128.6, 134.0, 137.9, 142.0, 144.5, 145.8, 155.8; HPLC: retention time: 9.500 min; purity: 95.2% (HPLC).

reactant | PPh3 | 1.0 mmol, 263.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 12.5 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,1-dimethylethyl [(3-bromo-4-cyanophenyl)methyl]carbamate | 8.4 mmol, 2.6 g | BrC=1C=C(C=CC1C#N)CNC(OC(C)(C)C)=O | C13H15BrN2O2
reactant | [3-(hydroxymethyl)phenyl]boronic acid (1,1-dimethylethyl)(trimethyl)silane | 10.0 mmol, 2.7 g | OCC=1C=C(C=CC1)B(O)O.CC(C)(C)[Si](C)(C)C
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.25 mmol, 56.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1,1-Dimethylethyl {[3′-({[(1,1-dimethylethyl)-(methyl)silyl]oxy}methyl)-6-methyl-3-biphenylyl]methyl}carbamate | 2.6 g, yield: 60% | CC(C)(C)[SiH](OCC=1C=C(C=CC1)C1=CC(=CC=C1C)CNC(OC(C)(C)C)=O)C | C25H37NO3Si
